US08975254B2
(S)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 2-acetylthiazole-4-carboxylic acid (1.444 g, 8.44 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (2.0 g, 7.67 mmol). The product was purified by recrystallization from ethanol. Yield 93%. 1H-NMR (400 MHz; DMSO-d6): δ 1.20 (d, 3H), 2.70 (s, 3H), 4.37 (dd, 1H), 4.44 (dd, 1H), 4.48-4.56 (m, 1H), 6.96 (d, 1H), 7.87 (d, 1H), 7.92 (dd, 1H), 7.97 (dd, 1H), 8.04 (d, 1H), 8.48 (d, 1H), 8.61 (s, 1H).

reactant | 2-acetylthiazole-4-carboxylic acid | 8.44 mmol, 1.444 g | C(C)(=O)C=1SC=C(N1)C(=O)O | C6H5NO3S
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 7.67 mmol, 2.0 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | Yield 93% | C(C)(=O)C=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C19H16ClN5O2S
